US03956500
PREPARATION OF 4-(METHYLCARBAMOYLOXIMINO)-5-METHOXYMETHYL-1,3-OXATHIOLANE
A quantity of 38.5 grams of 1-nitro-3-methoxy-propan-2-ol was chloromethylated with 8.53 grams paraformaldehyde and excess hydrogen chloride in a manner similar to that described in Example I. In this case, hydrogen chloride was passed through the reaction mixture at 0° for 15 hours after 1 equivalent had been absorbed. The resulting crude chloromethyl ether was then dissolved in tetrahydrofuran and reacted with 23.6 grams of thiolacetic acid and, subsequently, 22.5 ml of pyridine in a manner similar to the procedure given in Example I. After workup similar to that given in I, the crude thiolacetate was heated at 0.1 mm Hg until all volatiles having bp less than 100° had distilled off. A quantity of 14 grams of the resulting residue was reacted with 75 ml of a solution of ethanolic 1.68 N sodium hydroxide in 75 ml of toluene at room temperature for 16 hours. After workup as given in Example I, 7.1 gram of the crude product oxime was trimethylsilated with 9.0 grams of rimethylchlorosilane and pyridine in ether in a manner similar to that described in Example IV, and distilled in vacuo to give the oximetrimethylsilyl ether, bp 98°-104° (0.15 mm), 2.5 g, 70% desired product. Cleavage of the ether according to the method given in Example IV and recrystallization of the crude oxime product from toluene/hexane/isopropyl ether afforded pure 90.5°about 1 gram, mp 89.0°-5°C; structure confirmed by spectral analysis.

reactant | 1-nitro-3-methoxy-propan-2-ol | 38.5 grams | [N+](=O)([O-])CC(COC)O | C4H9NO4
reactant | paraformaldehyde | 8.53 grams | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | thiolacetate | S1C(=CC=C1)CC(=O)[O-]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 22.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 4-(METHYLCARBAMOYLOXIMINO)-5-METHOXYMETHYL-1,3-OXATHIOLANE | 2.5 g, 70% | CNC(=O)ON=C1SCOC1COC | C7H12N2O4S
